US03941821
Ethyl α-iodo-3-chloro-4-cyclohexylphenylacetate
When ethyl α-bromo-2'-chloro-4-biphenylylacetate in the above procedure is replaced by d ethyl α-bromo-2'-chloro-4-biphenylylacetate, l ethyl α-bromo-2'-chloro-4-biphenylylacetate of N-isopropyl α-bromo-2'-chloro-4-biphenylylacetamide, then the products prepared are d ethyl α-iodo-2'-chloro-4-biphenylylacetate, l ethyl α-iodo-2'-chloro-4-biphenylylacetate or N-isopropyl α-iodo-2'-chloro-4-biphenylylacetamide.

reactant | ethyl α-bromo-2'-chloro-4-biphenylylacetate | BrC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H14BrClO2
reactant | N-isopropyl α-bromo-2'-chloro-4-biphenylylacetamide | C(C)(C)NC(C(Br)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)=O | C17H17BrClNO
reactant | ethyl α-iodo-2'-chloro-4-biphenylylacetate | IC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H14ClIO2
reactant | N-isopropyl α-iodo-2'-chloro-4-biphenylylacetamide | C(C)(C)NC(C(I)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)=O | C17H17ClINO
product | Ethyl α-iodo-3-chloro-4-cyclohexylphenylacetate | IC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20ClIO2
